US08685986B2
1-(b) tert-Butyl(tert-butoxycarbonyl{6-[(6-phenylpyridazin-3-ylmethyl)(pyridin-3-ylsulfonyl)aminomethyl]pyridin-2-yl}amino)acetate
To a solution of tert-butyl({5-bromo-6-[(6-phenylpyridazin-3-ylmethyl)(pyridin-3-ylsulfonyl)aminomethyl]pyridin-2-yl}tert-butoxycarbonylamino)acetate (239 mg, 0.329 mmol) obtained in Example 1-(a) in ethanol (3.3 ml) were added triethylamine (322 μl, 2.31 mmol) and 10% palladium-active carbon (55% hydrate) (48 mg), followed by stirring at room temperature for 6 hours under hydrogen atmosphere at 1 atm. After completion of the reaction, insolubles were filtered off, and the filtrate was concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography (eluent; hexane:ethyl acetate=1:1→1:10 (V/V)) and then to reversed phase column chromatography (column; Megabond Elut™ C18 (manufactured by Varian, Inc.), eluent; acetonitrile:water=0:1→1:0 (V/V)), and fractions containing the desired compound were concentrated under reduced pressure to afford the title compound (153 mg) as a white foam. (Yield: 72%)

reactant | tert-butyl({5-bromo-6-[(6-phenylpyridazin-3-ylmethyl)(pyridin-3-ylsulfonyl)aminomethyl]pyridin-2-yl}tert-butoxycarbonylamino)acetate | 0.329 mmol, 239 mg | C(C)(C)(C)OC(CN(C(=O)OC(C)(C)C)C1=NC(=C(C=C1)Br)C(NS(=O)(=O)C=1C=NC=CC1)CC=1N=NC(=CC1)C1=CC=CC=C1)=O | C33H37BrN6O6S
reactant | triethylamine | 2.31 mmol, 322 μl | C(C)N(CC)CC | C6H15N
solvent | ethanol | 3.3 ml | C(C)O | C2H6O
catalyst | palladium | 48 mg | [Pd] | Pd
product | tert-Butyl(tert-butoxycarbonyl{6-[(6-phenylpyridazin-3-ylmethyl)(pyridin-3-ylsulfonyl)aminomethyl]pyridin-2-yl}amino)acetate | 153 mg, Yield: 72% | C(C)(C)(C)OC(CN(C1=NC(=CC=C1)C(NS(=O)(=O)C=1C=NC=CC1)CC=1N=NC(=CC1)C1=CC=CC=C1)C(=O)OC(C)(C)C)=O | C33H38N6O6S
